US04390697
STEP C: Ethyl 4-[4-(3-amino-6-methyl-quinazolin-2-yl-amino)-butyl]-piperazine-1-carboxylate
A mixture of 10 g of ethyl 4-(4-aminobutyl)-piperazine-1-carboxylate, 5 g of 3-amino-2-hydrazino-6-methylquinazolin-4-(3H)-one and 0.5 g of p-toluenesulfonic acid was heated to 180° C. (bath temperature of reaction mixture 160° C.) for 4 hours. After cooling to 100° C., the reaction mixture was dissolved in 250 ml of toluene and was washed twice with 100 ml of water. The mixture filtered through `celite` and the product was retained in the toluene solution for use in the next stage.

reactant | ethyl 4-(4-aminobutyl)-piperazine-1-carboxylate | 10 g | NCCCCN1CCN(CC1)C(=O)OCC | C11H23N3O2
reactant | 3-amino-2-hydrazino-6-methylquinazolin-4-(3H)-one | 5 g | NN1C(=NC2=CC=C(C=C2C1=O)C)NN | C9H11N5O
reactant | p-toluenesulfonic acid | 0.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 4-[4-(3-amino-6-methyl-quinazolin-2-yl-amino)-butyl]-piperazine-1-carboxylate | NN1C(N=C2C=CC(=CC2=C1)C)NCCCCN1CCN(CC1)C(=O)OCC | C20H32N6O2
